US07932272B2
Cinnoline-6-carboxylic acid methyl ester
To a solution of 4-chloro-cinnoline-6-carboxylic acid methyl ester (192 mg, 0.863 mmol) in dimethylsulfoxide (30 mL) were added sodium formate (70 mg, 1.04 mmol), tetrakis(triphenylphosphine)palladium(0) (198 mg, 0.702 mmol) and N,N-diisopropylethylamine (0.21 mL, 1.21 mmol), and the mixture was stirred for 1.5 hours at 90° C. After cooling to room temperature, water was added, ethyl acetate extraction was carried out, the organic layer was washed with water and brine, then, after drying over anhydrous sodium sulfate, the organic layer was evaporated. The resulting solid was washed with diethyl ether, then, purified by silica gel column chromatography (hexane-ethyl acetate), and the title compound (16 mg, 0.089 mmol, 10%) was obtained.

reactant | 4-chloro-cinnoline-6-carboxylic acid methyl ester | 0.863 mmol, 192 mg | COC(=O)C=1C=C2C(=CN=NC2=CC1)Cl | C10H7ClN2O2
reactant | sodium formate | 1.04 mmol, 70 mg | C(=O)[O-].[Na+]
reactant | N,N-diisopropylethylamine | 1.21 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.702 mmol, 198 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Cinnoline-6-carboxylic acid methyl ester | 0.089 mmol, 16 mg, 10% | COC(=O)C=1C=C2C=CN=NC2=CC1 | C10H8N2O2
